US05905071
12b N-[2-(N-Carbobenzoxy-sarcosyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-dodecanamide.
from N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-dodecanamide and N-carbobenzoxy-sarcosine. Yield 64%. [α]D =+18.4° (c=1.02, dichloromethane). m.p. 76-77°.

reactant | N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-dodecanamide | NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCCCC)N | C34H67N3O6
reactant | N-carbobenzoxy-sarcosine | C(=O)(OCC1=CC=CC=C1)N(C)CC(=O)O | C11H13NO4
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[2-(N-Carbobenzoxy-sarcosyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-dodecanamide | Yield 64% | C(=O)(OCC1=CC=CC=C1)N(C)CC(=O)NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCCCC)N | C45H78N4O9
